US07871998B2
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethy]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-alanyl-D-valine
A solution of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-([2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-alanine (0.015 g, 0.027 mmol), D-valine tert-butyl ester hydrochloride (0.008 g, 0.038 mmol) and N-methylmorpholine (0.030 ml, 0.272 mmol) in DCM (4 ml) was stirred for 5 min. TBTU (0.013 g, 0.041 mmol) was added. After 3 h, the conversion to the ester (M/z: 710.2) was completed and TFA (3 ml) was added. After 4 h, the mixture was diluted with toluene (2 ml) and the solvent was removed under reduced pressure. The residue was dissolved in MeOH (4 ml) and NaBH4 was added in small portions to the solution (a total of 0.065 g, 1.72 mmol) until the reduction was complete. Ammonium acetate buffer (0.1M, 3 ml) was added and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC, using a gradient of 20-50% MeCN in a 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.014 g (77% yield) of the title compound was obtained as a white solid. M/z: 656.1. 1H NMR (DMSO, 400 MHz): δ 0.75-0.83 (m, 6H), 1.22 (d, 3H), 1.95-2.07 (m, 1H), 3.83-3.96 (m, 2H), 3-98-4.06 (m, 1H), 4-24-4.31 (m, 1H), 4.40-4.54 (m, 3H), 4.67-4.76 (m, 1H), 5.01-5.07 (m, 1H), 6.91-7.98 (m, 2H), 7.05-7.17 (m, 4H), 7.19-7.25 (m, 2H), 7.29-7.39 (m, 4H), 7.84-7.95 (m, 1H). 8.07 (d, 1H),

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-([2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-alanine | 0.027 mmol, 0.015 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@@H](C)C(=O)O)C=C1 | C28H24F2N2O6S
reactant | D-valine tert-butyl ester hydrochloride | 0.038 mmol, 0.008 g | Cl.C(C)(C)(C)OC([C@H](N)C(C)C)=O
reactant | N-methylmorpholine | 0.272 mmol, 0.030 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.041 mmol, 0.013 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethy]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-alanyl-D-valine | 0.014 g, 77% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@@H](C)C(=O)N[C@H](C(C)C)C(=O)O)C=C1 | C33H35F2N3O7S
